US09260425B2
A microwave tube charged with 5-bromo-3-(2-fluorophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine (376 mg, 1 mmol), 1H-pyrazol-4-ylboronic acid (224 mg, 2 mmol), Pd(dppf)Cl2 (50 mg, 0.0625 mmol), saturated solution of Na2CO3 (0.5 mL), and DME/EtOH (5 mL/0.5 mL) was irradiated under microwave at 140° C. for 1 h. After cooling down, ethyl acetate was added. The mixture was washed with water twice (2×20 mL), dried over anhydrous Na2SO4 and concentrated to afford the crude product. The crude product was purified by silica-gel column chromatography eluting with 50% ethyl acetate in heptane to afford 3-(2-fluorophenyl)-5-(1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine as a white solid (300 mg, 82%, ESI MS m/z=364 (M+1) which was treated with HCl/dioxane (4 mL, 3 mol/L) and stirred for overnight. The crude product was received by filtration and washed with a little dioxane. It was further purified by prep-HPLC eluting with 5 to 95% CH3CN in aqueous 10 mmol NH4HCO3 solution to afford 136 as a white solid (180 mg, 72%). 1H NMR (400 MHz, DMSO) δ 9.02 (s, 1H), 8.16 (s, 2H), 8.02 (m, 1H), 7.87 (m, 1H), 7.54 (m, 1H), 7.38 (m, 2H). ESI MS m/z=280 (M+1)

reactant | 5-bromo-3-(2-fluorophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | 1 mmol, 376 mg | BrC=1C=C2C(=CN1)N(N=C2C2=C(C=CC=C2)F)C2OCCCC2 | C17H15BrFN3O
reactant | 1H-pyrazol-4-ylboronic acid | 2 mmol, 224 mg | N1N=CC(=C1)B(O)O | C3H5BN2O2
reactant | Na2CO3 | 0.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DME EtOH | 5 mL | COCCOC.CCO
catalyst | Pd(dppf)Cl2 | 0.0625 mmol, 50 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-fluorophenyl)-5-(1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | FC1=C(C=CC=C1)C1=NN(C2=CN=C(C=C21)C=2C=NNC2)C2OCCCC2 | C20H18FN5O
